US03964896
Step 1. 1-Benzoyl-2-(2-carboxybenzoyl) hydrazine
At a temperature of about 18°, powdered benzhydrazide (126 g, 1 mole) was suspended in stirred benzene (1.6 l), and 24-mesh phthalic anhydride (148 g, 1 mole) was added portionwise over 15 to 20 minutes. After the addition the reaction mixture was stirred for a further hour. The product, 1-benzoyl-2-(2-carboxybenzoyl) hydrazine (III) (R1 =H) was collected on a filter, pressed free of benzene and air dried, 276 g, 98%, M.P., 205°-208°.

reactant | benzhydrazide | 1 mole, 126 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | phthalic anhydride | 1 mole, 148 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | benzene | 1.6 l | C1=CC=CC=C1 | C6H6
product | 1-Benzoyl-2-(2-carboxybenzoyl) hydrazine | C(C1=CC=CC=C1)(=O)NNC(C1=C(C=CC=C1)C(=O)O)=O | C15H12N2O4
